US05665718
A suspension of 0.49 g (1.5 mmol) of 3-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 8 ml of methylene chloride was treated under argon with 0.77 ml (4.5 mmol) of N-ethyldiisopropylamine and 0.475 g (1.8 mmol) of α,α'-dibromo-o-xylene and stirred at room temperature under argon for 7 hrs. The solution was washed once with 10 ml of water, dried with sodium sulfate, filtered and evaporated. The crude product was purified by chromatography on 40 g of silica gel (methylene chloride/acetone 4:1, then 22:1), whereupon the eluate was evaporated and the residue was taken up in 3 ml of methanol. The solution was acidified with ethereal hydrochloric acid and the solvent was removed in a vacuum. The residue was dissolved in 3 ml of methanol, whereupon the solution was cooled to about 0° and diluted dropwise with 3 ml of ether. Thereby, white crystals separated slowly and were filtered off. There were obtained 190 mg (26%) of 8-fluoro-3-(5-isoindolin-2-ylmethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride (22:3) of m.p. 177°-184° (dec.).

reactant | 3-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.5 mmol, 0.49 g | NCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C15H13FN6O2
reactant | N-ethyldiisopropylamine | 4.5 mmol, 0.77 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | α,α'-dibromo-o-xylene | 1.8 mmol, 0.475 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
reactant | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 8-fluoro-3-(5-isoindolin-2-ylmethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride | 190 mg, 26% | Cl.FC=1C=CC2=C(C(N(CC=3N2C=NC3C3=NOC(=N3)CN3CC2=CC=CC=C2C3)C)=O)C1 | InChI=1S/C23H19FN6O2.ClH/c1-28-11-19-21(25-13-30(19)18-7-6-16(24)8-17(18)23(28)31)22-26-20(32-27-22)12-29-9-14-4-2-3-5-15(14)10-29;/h2-8,13H,9-12H2,1H3;1H
